US06734200B1
3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)-5(S)-(1,2,5-thiadiazol-3-ylaminomethyl)oxazolidin-2-one
A solution of 3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-1,2,5-thiadiazol-3-ylamino-methyl)oxazolidin-2-one (580 mg, 0.96 mM) in trifluoroacetic acid (2 ml) was warmed at 60° for 2 minutes and then kept at ambient temperature for 10 minutes. A solution of trifluoroacetic acid in water (10 ml, 1:1) was added and the mixture kept for 30 minutes. More trifluoroacetic acid (2 ml) was added and after a further 90 minutes, excess aqueous ammonia was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water, sodium bicarbonate solution and brine and dried (sodium sulfate). Solvent was evaporated and the residue purified on a silica Mega Bond Elut® column, eluting with dichloromethane and then 4% methanol in dichloromethane to give an oil which solidified on trituration with diethyl ether to give the title product (203 mg, 46%). NMR (400 MHz, DMSO-d6/CD3COOD) δ: 2.41 (m overlapping DMSO, 2H); 3.45 (m, 1H); 3.54 (m, 1H); 3.48 (overlapping m, 4H); 3.82 (dd, 1H); 4.08-4.25 (m, 3H); 4.39 (m, 1H); 4.92 (m, 1H); 6.01 (s, 1H); 7.27 (dd, 1H); 7.32 (t, 1H); 7.45 (dd, 1H); 8.01 (s, 1H); 2×OH, 1×NH missing, exchanged. MS (ESP): 464 (MH+) for C20H22FN5O2S

reactant | 3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-1,2,5-thiadiazol-3-ylamino-methyl)oxazolidin-2-one | 0.96 mM, 580 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=NSN=C1)=O)F)C | C28H34FN5O7S
reactant | ammonia | N | H3N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 10 ml | O | H2O
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)-5(S)-(1,2,5-thiadiazol-3-ylaminomethyl)oxazolidin-2-one | 203 mg, 46% | O[C@H](C(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC1=NSN=C1)=O)F)CO | C20H22FN5O5S
